simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (cadence 0) vsource type=pulse val0=0 val1=0.9 delay=0 rise=50p fall=50p width=0.9n period=2n
Vrst (clear_n 0) vsource type=pwl wave=[ 0 0 3n 0 3.1n 0.9 90n 0.9 ]
Vvin (sense_level 0) vsource type=pwl wave=[ 0 0 90n 0.9 ]

XDUT (sense_level cadence clear_n vdd vss q5 q4 q3 q2 q1 q0 held_level settled) v2_adc_dac_not_raw_follower_6b_015

tran tran stop=120n maxstep=500p
save sense_level cadence clear_n held_level q0 q1 q2 q3 q4 q5 settled
